// AutoChaos parametric DC sweep — topology2 (3T) — finger-aware
simulator lang=spectre
global 0
parameters Vc_val=0 vin=0
include "/ece-tools/open_pdks/GPDK/gpdk045_v_6_0/gpdk045/../models/spectre/gpdk045.scs" section={PROCESS}
subckt Topology2 VIN Vc Vdd Vout gnd
    PM0 (Vout Vc Vdd Vdd) g45p1lvt w={W_PM0} l=45n nf=1 sa=140n sb=140n sd=160n sca=226.00151 scb=0.11734 scc=0.02767 m=1
    PM1 (gnd VIN Vout Vdd) g45p1lvt w={W_PM1} l=45n nf=1 sa=140n sb=140n sd=160n sca=44.95198 scb=0.05033 scc=0.00571 m=1
    NM0 (Vout VIN gnd gnd) g45n1lvt w={W_NM0} l={L_NM0} nf=1 sa=140n sb=140n sd=160n sca=121.81260 scb=0.07142 scc=0.01388 m=1
ends Topology2
I0 (net3 net2 net4 net5 0) Topology2
V2 (net2 0) vsource dc=Vc_val type=dc
V1 (net3 0) vsource dc=vin    type=dc
V0 (net4 0) vsource dc={VDD}  type=dc
simulatorOptions options psfversion="1.1.0" reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp={TEMP} scalem=1.0 scale=1.0 compatible=spectre
vc_sweep sweep param=Vc_val start=0 stop=1.1 step=0.002 {{
    vin_sweep dc param=vin start=0 stop=1.1 step=0.002 write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
}}
saveOptions options save=allpub